US09371333B2
3,6-Diamino-1-(3-bromo-4,5-dimethoxy-phenyl)-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile (20)
2-Amino-8-hydroxyquinoline (192 mg, 1.2 mmol), 3-bromo-4,5-dimethoxy-benzaldehyde (245 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) were suspended in 25 ml ethanol at room temperature, charged with DABCO (33 μl, 0.3 mmol) and then stirred at 90° C. under LC-MS control for 6 days. The desired product was formed as a main component with some side products and a small amount of starting material was left. The reaction mixture was cooled down to room temperature, diluted with water to about 100 ml and stirred for over night at room temperature. Thus resulting precipitates were collected by filtration, washed well with 1:1 mixture of ethanol/water and finally with small portion of 10% ethyl acetate in cyclohexane and then dried under high vacuum to get pure solids (202 mg, 0.45 mmol, 45%) of the title compound.

reactant | 2-Amino-8-hydroxyquinoline | 1.2 mmol, 192 mg | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | 3-bromo-4,5-dimethoxy-benzaldehyde | 1 mmol, 245 mg | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 0.3 mmol, 33 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3,6-Diamino-1-(3-bromo-4,5-dimethoxy-phenyl)-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile | NC1=C(C(C=2C=CC3=CC=C(N=C3C2O1)N)C1=CC(=C(C(=C1)OC)OC)Br)C#N | C21H17BrN4O3
